US05840732
iii) Synthesis of 5-butylidene-3-(imidazo[1,2-a]pyridin-5-ylthio)methylthiazolidine-2,4-dione hydrochloride
To a solution of 1.26 g (3.78 mmol) of 5-butylidene-3-(imidazo[1,2-a]pyridin-5-ylthio)methylthiazolidine-2,4-dione in 30 ml of methanol, 0.5 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.33 g (100%, light yellow solid) of the desired product.

reactant | 5-butylidene-3-(imidazo[1,2-a]pyridin-5-ylthio)methylthiazolidine-2,4-dione | 3.78 mmol, 1.26 g | C(CCC)=C1C(N(C(S1)=O)CSC1=CC=CC=2N1C=CN2)=O | C15H15N3O2S2
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-butylidene-3-(imidazo[1,2-a]pyridin-5-ylthio)methylthiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C15H15N3O2S2.ClH/c1-2-3-5-11-14(19)18(15(20)22-11)10-21-13-7-4-6-12-16-8-9-17(12)13;/h4-9H,2-3,10H2,1H3;1H
